US07495007B2
Preparation of intermediate 3-chloro-5-formyl-2H-pyridine-1-carboxylic acid phenyl ester
Phosphorus oxychloride (5.4 g, 57.9 mmol) was added slowly to a stirred solution of DMF (8.9 mL, 116 mmol) in dichloromethane (10 mL) at 0° C. After addition, the solution was stirred at same temperature for 25 min., then transferred a solution of 3-chloro-2H-pyridine-1-carboxylic acid phenyl ester (5.67 g, 26.3 mmol) in anhydrous dichloromethane (50 mL) at 0° C. The ice bath was removed and stirring was continued at r.t. for 2 h, then the mixture was refluxed for 40 min. After the mixture was cooled to 0° C., an aqueous solution of KOAc (15 g, 153 mmol) in water (50 mL) was added slowly. The mixture was refluxed for 20 min., organic layer was separated, and aqueous layer was extracted with dichloromethane (50 mL). The organic layers were combined, washed with saturated NaHCO3, water and brine then dried over MgSO4, concentrated to give the crude product (Yield: 6.7 g).

reactant | Phosphorus oxychloride | 57.9 mmol, 5.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 116 mmol, 8.9 mL | CN(C)C=O | C3H7NO
reactant | 3-chloro-2H-pyridine-1-carboxylic acid phenyl ester | 26.3 mmol, 5.67 g | C1(=CC=CC=C1)OC(=O)N1CC(=CC=C1)Cl | C12H10ClNO2
reactant | KOAc | 153 mmol, 15 g | CC(=O)[O-].[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 3-chloro-5-formyl-2H-pyridine-1-carboxylic acid phenyl ester | Yield: 6.7 g | C1(=CC=CC=C1)OC(=O)N1CC(=CC(=C1)C=O)Cl | C13H10ClNO3
